Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
stone fruit / Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
confusion 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with a past medical history of metastatic renal 
cell carcinoma and prior hypercalcemia (with Ca of 15 in the 
past) presenting with confusion.  
Patient reports several weeks of increasing fatigue which 
accelerated over the last week. Over the last several days he 
also developed episodes of confusion, difficulty remembering 
things, and 'not making sense'. Due to similarity to prior 
episodes of hypercalcemia his wife called his oncologist who 
recommended he present to the ED.  
In the ED, initial VS were: 3 97.6 104 134/74 16 97% RA  
Labs were notable for: Na 132, lactate 1.3, Ca ___  
Imaging included: CXR showed interval increase in size and 
number of pulmonary nodules and masses with most dense 
consolidation at the right lung base which is new. CT head 
noncontrast showed a medial right cerebellar hypodense lesion.  

 
Past Medical History:
PAST MEDICAL HISTORY:
1. HTN
2. Renal cell carcinoma, metastatic

PAST SURGICAL HISTORY:
1. Right nephrectomy - ___
2. Right hernia repair - ___

ONCOLOGIC HISTORY:
He was initially diagnosed after having increasing back pain, 
and then developed systemic symptoms. CT ___ showed a large 
osteolytic metastatic deposit involving the right sacrum and 
ileum extending through the joint with a large extraosseous 
vascular metastatic deposit measuring approximately 10 x 12 cm 
posteriorly infiltrating the piriformis muscle and extending 
into the gluteal region.  A partial visualization of the kidney 
revealed a large 4 x 5 cm right renal neoplasm. CT scan of chest 
and abdomen revealed a focal sclerotic sternal lesion; however, 
no other pulmonary nodules or abnormalities were seen in the 
scan.  

He underwent fine needle core biopsy of the right gluteal
mass on ___ revealing metastatic renal cell carcinoma.

He underwent nephrectomy ___ and palliative radiation 
therapy
to the right iliac mass from ___. 

IL-2 therapy: He began cycle 1 week 1 on ___ and received ___ 
doses, complicated by toxic encephalopathy. Then recovered and
was admitted ___ for cycle 1 week 2 of HD-IL2. 
 
Social History:
___
Family History:
Mother with transitional cell carcinoma of kidney, ___ yo, alive 
and well. Grandmother had thyroid cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T97.8 BP 140/88 HR 88 RR 16 O2 98%RA  
GENERAL: Pleasant man, NAD  
HEENT: NC/AT, EOMI, PERRL, MMM  
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: clear to auscultation, no wheezes or rhonchi  
ABD: +BS, soft, NT/ND, no rebound or guarding  
EXT: No lower extremity pitting edema  
PULSES: 2+DP pulses bilaterally  
NEURO: Oriented to self and hospital. Not year. Able to ___ 
forward, but missed several days going backward. Occaisional 
word searching, otherwise speech is fluent. CN II-XII intact. 
Full strength in all extremities. FTN intact. Somewhat wide 
based shuffling gait.  
SKIN: Warm and dry, without rashes 
=====================================================
DISCHARGE Physical Exam:  
VS: 98.7 136/80 83 20 94%RA 
GENERAL: Pleasant man, NAD   
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: clear to auscultation, no wheezes or rhonchi  
ABD: +BS, soft, NT/ND, no rebound or guarding  
EXT: No lower extremity pitting edema  
PULSES: 2+DP pulses bilaterally  
NEURO: Oriented to self and hospital. Not day/year. Refuses ___ 
___.  speech is fluent. CN II-XII intact. Full strength 
in all extremities. 
SKIN: Warm and dry, without rashes  

 
Pertinent Results:
INITIAL LABS: 

___ 12:06PM BLOOD WBC-6.4 RBC-4.38* Hgb-11.8* Hct-37.0* 
MCV-84 MCH-27.0 MCHC-32.0 RDW-13.4 Plt ___
___ 12:06PM BLOOD Neuts-78.0* Lymphs-14.3* Monos-5.9 
Eos-1.4 Baso-0.4
___ 12:06PM BLOOD Plt ___
___ 12:06PM BLOOD Calcium-13.2* Phos-2.6* Mg-2.1
___ 12:16PM BLOOD Lactate-1.3
==============================================================
DISCHARGE LABS: 

___ 06:00AM BLOOD WBC-7.8 RBC-4.10* Hgb-11.2* Hct-34.5* 
MCV-84 MCH-27.2 MCHC-32.4 RDW-13.6 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-105* UreaN-12 Creat-0.9 Na-136 
K-3.9 Cl-107 HCO3-19* AnGap-14
___ 06:00AM BLOOD Calcium-10.9* Phos-2.7 Mg-2.2

==============================================================
MRI BRAIN 
1.  3 mm enhancing focus in the right cerebellum with adjacent 
edema, 
concerning for a solitary brain metastasis.  No evidence of 
hemorrhage, mass effect, or infarction. 
2.  Stable subcortical white matter hyperintensities are 
nonspecific, possibly related to chronic small vessel ischemic 
disease. 

 
Brief Hospital Course:
___ male with a past medical history of metastatic renal 
cell carcinoma and prior hypercalcemia presenting with confusion 
found to have elevated calcium and evidence of brain metastasis. 


#Toxic Metabolic encephalopathy: Patient with increased 
confusion on admission, found to have elevated calcium likely 
related to known PTHrP. Previous similar episodes in the past.  
Patient treated with aggressive IV fluid hydration and IV 
bisphosphonates. Calcium on discharge was 10.9 mental status had 
improved per wife. Plan for repeat calcium check on ___

#Evidence of brain metastasis: Patient with evidence of 3mm 
lesion in cerebellum with surrounding edema. This was not 
thought to be the cause of patients AMS due to small size.  
Radiation Oncology saw patient while admitted with plan for XRT 
as an outpatient. 

#Discontinuation of study drug: Due to evidence of aressive 
progression of disease in both lung and brain and hospital 
admission study drug was held. Dr. ___.  

#Metastatic renal cell carcinoma: Concern for progression given 
increase in pulmonary nodes, CNS lesion, and worsening 
hypercalcemia.  

#Hyponatremia: Mild on admission. Pt w/hx of hypovolemic 
hyponatremia.  trended up to normal with IVF 

CHRONIC ISSUES:  
#Anxiety: Holding alprazolam  
#Hypertension: Continue losartan  
#Pain: Con't home methadone/oxycodone  

Transitional Issues: 
-Patient found to have new evidence of brain metastasis 3 mm 
enhancing focus in the right cerebellum. He was seen by 
radiation oncology as an inpatient with plan for single fraction 
of CK treatment with a dose of 22 Gy. He is scheduled to see 
radiation oncology as an outpatient. 
-Please ensure patient has follow up with palliative care 
-pt to have chem 10 drawn on ___ results faxed to oncologist

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO BID 
2. Megestrol Acetate 400 mg PO BID 
3. Guaifenesin-Dextromethorphan 5 mL PO Q8H:PRN cough 
4. ALPRAZolam 0.5 mg PO Q4H:PRN anxiety 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Senna 8.6 mg PO BID:PRN constipation 
7. Methadone 20 mg PO QAM 
8. Methadone 30 mg PO BID 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 

 
Discharge Medications:
1. Guaifenesin-Dextromethorphan 5 mL PO Q8H:PRN cough 
2. Losartan Potassium 25 mg PO BID 
3. Methadone 20 mg PO QAM 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Senna 8.6 mg PO BID:PRN constipation 
7. ALPRAZolam 0.5 mg PO Q4H:PRN anxiety 
8. Megestrol Acetate 400 mg PO BID 
9. Methadone 30 mg PO BID 
10. Outpatient Lab Work
please draw chem 10 on ___
ICD 9:275.42 hypercalcemia
please fax results to Dr. ___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Final diagnosis: 
hypercalcemia
metastatic RCC 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for worsening confusion and 
were found to have elevated calcium. We treated you with IV 
fluids and medications to lower your calcium.  Your calcium 
trended downward through the day and you reported feeling less 
confused. We also did an MRI of your brain which shows that you 
have evidence of cancer in your brain.  You will need to follow 
up with the radiation oncology for treatment. 

Please come back to the hospital if you have worsening 
confusion. Drink plenty of fluids at home to keep your calcium 
down.  

 
Followup Instructions:
___